US07754741B2
Preparation of 1-Methyl-3-trifluoromethyl-1H-pyrazole4-carboxylic acid [2-(3-chloro-5-trifluoromethyl-pyridin-2-yl)-ethyl]-amide
132 mg (3.5 mmol) of sodium borohydrate is added in small portions to a solution of 370 mg (1.0 mmol) 1-methyl-3-trifluoromethyl-1H-pyrazole-4-carboxylic acid-anhydride, 110 mg (0.5 mmol) (3-chloro-5-trifluormethyl-pyridin-2-yl)-acetonitrile and 120 mg (0.5 mmol) Nickel(II) chloride hexahydrate in 5 ml of acetonitrile at 0° C. Stirring was continued at room temperature for 4 hours.

reactant | sodium borohydrate | 3.5 mmol, 132 mg | [B-].[Na+]
reactant | 1-methyl-3-trifluoromethyl-1H-pyrazole-4-carboxylic acid-anhydride | 1.0 mmol, 370 mg | CN1N=C(C(=C1)C(=O)OC(=O)C=1C(=NN(C1)C)C(F)(F)F)C(F)(F)F | C12H8F6N4O3
reactant | (3-chloro-5-trifluormethyl-pyridin-2-yl)-acetonitrile | 0.5 mmol, 110 mg | ClC=1C(=NC=C(C1)C(F)(F)F)CC#N | C8H4ClF3N2
solvent | acetonitrile | 5 ml | C(C)#N | C2H3N
catalyst | Nickel(II) chloride hexahydrate | 0.5 mmol, 120 mg | O.O.O.O.O.O.[Ni](Cl)Cl
product | 1-Methyl-3-trifluoromethyl-1H-pyrazole4-carboxylic acid [2-(3-chloro-5-trifluoromethyl-pyridin-2-yl)-ethyl]-amide | ClC=1C(=NC=C(C1)C(F)(F)F)CCNC(=O)C=1C(=NN(C1)C)C(F)(F)F | C14H11ClF6N4O
